US07067517B2
Dimethyl-carbamic acid 4-(3,5-dichloro pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 4-(3,5-dichloro pyridin-2-yloxy)-phenol and dimethyl-carbamoyl chloride. The crude product was purified by preparative HPLC (38%). HPLC-MS m/z=327.0 (M+1), Rt: 4.7 min.

reactant | 4-(3,5-dichloro pyridin-2-yloxy)-phenol | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(C=C1)O | C11H7Cl2NO2
reactant | dimethyl-carbamoyl chloride | CN(C(=O)Cl)C | C3H6ClNO
product | Dimethyl-carbamic acid 4-(3,5-dichloro pyridin-2-yloxy)-phenyl ester | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(C=C1)OC(N(C)C)=O | C14H12Cl2N2O3
